US04622403
STEP A: Preparation of methyl 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]-thiepin-7-carboxylate
A suspension of crude 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]thiepin-7-carboxylic acid (8.276 g, 28 mmole) in methanol (200 ml) containing concentrated sulfuric acid was stirred under reflux for 20 hours. The suspension was evaporated, water was added and the product was extracted with chloroform. The crude ester was purified by chromatography (250 g Merck silica gel eluted with 1:1 hexane/methylene chloride) The title compound had m.p. 110°-111° C. (from acetonitrile).

reactant | 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]thiepin-7-carboxylic acid | 28 mmole, 8.276 g | C1CCC2=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)O)C=C12 | C18H16O2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | methyl 2,3,10,11-tetrahydro-1H-benzo[b]indeno[5,6-f]-thiepin-7-carboxylate | C1CCC2=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)OC)C=C12 | C19H18O2S
